US09334290B2
A suspension of 3-(3-bromo-2-methylphenyl)quinazoline-2,4(1H,3H)-dione (23.02 g, 69.5 mmol) and Cs2CO3 (34.0 g, 104 mmol) in DMF (70 mL) cooled in an ice-water bath was treated portionwise with iodomethane (5.22 mL, 83 mmol). The mixture was warmed to room temperature and stirred for 30 min. The mixture was filtered and the filtrate was concentrated. The residue was partitioned between EtOAc and water. A precipitate which formed was collected by filtration. The collected solid was washed with water and dried overnight under vacuum to give a white solid. The organic phase of the filtrate was separated, washed 3 times with 10% aqueous LiCl, then was washed twice with water, dried and concentrated to give additional solid. The two solids were combined to give 3-(3-bromo-2-methylphenyl)-1-methylquinazoline-2,4(1H,3H)-dione as a white solid (15.56 g, 92% yield). Mass spectrum m/z 345, 347 (M+H)+.

reactant | 3-(3-bromo-2-methylphenyl)quinazoline-2,4(1H,3H)-dione | 69.5 mmol, 23.02 g | BrC=1C(=C(C=CC1)N1C(NC2=CC=CC=C2C1=O)=O)C | C15H11BrN2O2
reactant | Cs2CO3 | 104 mmol, 34.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodomethane | 83 mmol, 5.22 mL | IC | CH3I
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 3-(3-bromo-2-methylphenyl)-1-methylquinazoline-2,4(1H,3H)-dione | 15.56 g, 92% yield | BrC=1C(=C(C=CC1)N1C(N(C2=CC=CC=C2C1=O)C)=O)C | C16H13BrN2O2
